US09034866B2
Into a 10-L 4-necked round-bottom flask was placed 5-bromo-8-chloro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraene (260 g, 960.99 mmol, 1.00 equiv), 2-methylpropan-2-ol (6000 mL), and 2,2-dimethoxyethan-1-amine (600 g, 5.71 mol, 6.00 equiv). The resulting solution was stirred at 85° C. for 5 h, cooled to room temperature and concentrated under vacuum. The residue was washed with 2×500 mL water and extracted with 3×500 mL of ethyl acetate. The organic layers were combined and concentrated under vacuum to afford 340 g (crude) of 5-bromo-N-(2,2-dimethoxyethyl)-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraen-8-amine as a black oil.

reactant | 5-bromo-8-chloro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraene | 960.99 mmol, 260 g, 1.00 equiv | BrC1=CC=C2C3CC(N=C(C2=C1)Cl)C3 | C11H9BrClN
reactant | 2,2-dimethoxyethan-1-amine | 5.71 mol, 600 g, 6.00 equiv | COC(CN)OC | C4H11NO2
solvent | 2-methylpropan-2-ol | 6000 mL | CC(C)(C)O | C4H10O
product | 5-bromo-N-(2,2-dimethoxyethyl)-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraen-8-amine | 340 g | BrC1=CC=C2C3CC(N=C(C2=C1)NCC(OC)OC)C3 | C15H19BrN2O2
